US04620865
To a solution of 1.2 g of 5-chloro-1-(4-methoxyphenyl)-1H-pyrazole-4-carboxylic acid in 150 ml DMF was added 1.1 g of carbonyldiimidazole and the mixture was allowed to stir at room temperature for 20 minutes. One gram of triethylamine and 0.6 g of methylamine hydrochloride were next added to the reaction mixture and the solution was stirred at room temperature for 20 hours. The mixture was poured into ice water and extracted with ethyl acetate. The organic phase was separated and washed with water, dried, and concentrated under vacuum to dryness. The residue was recrystallized from toluene/hexane to afford 650 mg of 5-chloro-1-(4-methoxyphenyl)-N-methyl-1H-pyrazole-4-carboxamide. Yield 71%. mp=144°-146° C.

reactant | 5-chloro-1-(4-methoxyphenyl)-1H-pyrazole-4-carboxylic acid | 1.2 g | ClC1=C(C=NN1C1=CC=C(C=C1)OC)C(=O)O | C11H9ClN2O3
reactant | carbonyldiimidazole | 1.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | One gram | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 0.6 g | Cl.CN
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 5-chloro-1-(4-methoxyphenyl)-N-methyl-1H-pyrazole-4-carboxamide | 650 mg, Yield 71% | ClC1=C(C=NN1C1=CC=C(C=C1)OC)C(=O)NC | C12H12ClN3O2
